US06413980B1
N-[4-bromo-2-fluorophenyl]-3,3-dichlorocaprolactam (0.49 g, 1.38 mmol) was refluxed with 10 mL of morpholine under N2 for 1 h. The solvent was then removed in vacuo. Toluene was added and the solid was filtered off. The filtrate was concentrated and dried under vacuum to give 1,5,6,7-tetrahydro-1-[4-bromo-2-fluorophenyl]-3-(morpholin-4-yl)-2H-azepin-2-one as brown oil(0.55 g). LRMS (AP+): 369.0, 371.0, (M+H)+.

reactant | N-[4-bromo-2-fluorophenyl]-3,3-dichlorocaprolactam | 1.38 mmol, 0.49 g | BrC1=CC(=C(C=C1)N1C(CC(CCC1)(Cl)Cl)=O)F | C12H11BrCl2FNO
reactant | morpholine | 10 mL | N1CCOCC1 | C4H9NO
product | 1,5,6,7-tetrahydro-1-[4-bromo-2-fluorophenyl]-3-(morpholin-4-yl)-2H-azepin-2-one | 0.55 g | BrC1=CC(=C(C=C1)N1C(C(=CCCC1)N1CCOCC1)=O)F | C16H18BrFN2O2
